US05250669
(1) Synthesis of 1-phenyl-3,5-octanedione
Sodium (7.3 g) was added in small portions to a solution of 4-phenyl-2-butanone (46.8 g, 0.31 mol) and ethyl butyrate (110 g, 0.95 mol) in toluene (120 ml) at 20°-60° C. under nitrogen, and stirring was continued for 9 h under reflux. After standing overnight, the reaction mixture was taken up in H2O (300 ml), neutralized with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with H2O, dried over anhydrous MgSO4 and then evaporated. The residual reddish orange oil (84 g) was distilled under reduced pressure to afford the title compound as a pale yellow oil which was an ca 3:7 mixture of Keto/Enol as seen by the methylene singlet at δ3.52 ppm and the methine singlet as δ5.45 ppm in the 1HNMR spectrum; yield: 15.4 g; bp. 166°-168° C./2 mmHg.

reactant | Sodium | 7.3 g | [Na] | Na
reactant | 4-phenyl-2-butanone | 0.31 mol, 46.8 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
reactant | ethyl butyrate | 0.95 mol, 110 g | C(CCC)(=O)OCC | C6H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 300 ml | O | H2O
product | 1-phenyl-3,5-octanedione | C1(=CC=CC=C1)CCC(CC(CCC)=O)=O | C14H18O2
